US07737135B2
a) 4-bromo-2-fluoro-N-(2-methylpropyl)-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid and 2-methyl-1-propanamine.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 2-methyl-1-propanamine | CC(CN)C | C4H11N
product | 4-bromo-2-fluoro-N-(2-methylpropyl)-benzamide | BrC1=CC(=C(C(=O)NCC(C)C)C=C1)F | C11H13BrFNO
